US06340704B1
9-(1,3-Benzodioxole-5-yl)-8-methyl-naptho[1,2-d]-1,3,-dioxole-7-carboxamide
WSC[1-Ethyl-3-(3-dimethylaminopropyl) carbodimide hydrochloride](33 mg) and ammonia (3N ethanol solution:0.14 ml) were added under ice-cooling to a DMF solution of 9-(1,3-benzodioxole-5yl)-8-methyl-naphtho[1,2-d]-1,3,-dioxole-7-carboxylic acid (50 mg) which was prepared in Reference Example 13. The mixture was stirred at room temperature for 2 hours, and the reaction was stopped with addition of water. The residue was purified with column chromatography (Silica-Gel 5 g, eluent:ethyl acetate-hexane=1:1) and recrystalized from methanol to yield the title compound (23 g).

reactant | ammonia | 3N, 0.14 ml | N | H3N
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 9-(1,3-benzodioxole-5yl)-8-methyl-naphtho[1,2-d]-1,3,-dioxole-7-carboxylic acid | 50 mg | O1COC2=C1C=CC(=C2)C=2C(=C(C=C1C=CC3=C(OCO3)C21)C(=O)O)C | C20H14O6
solvent | water | O | H2O
product | 9-(1,3-Benzodioxole-5-yl)-8-methyl-naptho[1,2-d]-1,3,-dioxole-7-carboxamide | 23 g | O1COC2=C1C=CC(=C2)C=2C(=C(C=C1C=CC3=C(OCO3)C21)C(=O)N)C | C20H15NO5
